US04987134
3-(2-Thienyl)piperazine-2,5-dione
A mixture of 6.4 g of methyl 2-thienyl-N-(tert.-butoxycarbonylaminoacetyl)aminoacetate and 200 ml of formic acid is stirred at room temperature for 15 h. The volatile fractions are stripped off in vacuo, and the residue is heated to boiling in a mixture of 80 ml of toluene and 300 ml of butanol under reflux for 3 h. The solvents are then removed in a rotary evaporator, and the residue is recrystallized from methanol.

reactant | methyl 2-thienyl-N-(tert.-butoxycarbonylaminoacetyl)aminoacetate | 6.4 g | S1C(=CC=C1)C(C(=O)OC)NC(CNC(=O)OC(C)(C)C)=O | C14H20N2O5S
reactant | formic acid | 200 ml | C(=O)O | CH2O2
solvent | toluene | 80 ml | C1(=CC=CC=C1)C | C7H8
solvent | butanol | 300 ml | C(CCC)O | C4H10O
product | 3-(2-Thienyl)piperazine-2,5-dione | S1C(=CC=C1)C1C(NCC(N1)=O)=O | C8H8N2O2S
